US04424063
Primene 81R:
Dissolve the picric acid in the methyl isobutyl ketone; add the N-butyl alcohol and elemental iron. The reaction time during stirring is 24 hours. Add the kerosene, nitrobenzene, and Primene.

reactant | picric acid | C1([N+](=O)[O-])=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C1O | C6H3N3O7
reactant | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | methyl isobutyl ketone | C(C(C)C)C(=O)C | C6H12O
catalyst | iron | [Fe] | Fe
product | Primene 81R | CC(C)(C)CCCCCCCN | C11H25N
